US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
4-Allyloxymethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 40 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 44 μL of allyl alcohol, and 4 mL of 1 M solution of sodium bis(trimethylsilyl)amide in THF reacted to give 4.5 mg of the title compound as a foam.

reactant | 4-Allyloxymethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 40 mg | C(C=C)OCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C22H25NO2
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | allyl alcohol | 44 μL | C(C=C)O | C3H6O
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 4.5 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
